US07456218B2
ethyl 2′,4′-dimethylbiphenyl-3-carboxylate
(2,4-Dimethylphenyl)boronic acid (3.0 g, 20.0 mmol), ethyl 3-bromobenzoate (4.3 g, 18.8 mmol) and cesium carbonate (9.8 g, 30.0 mmol) were added to a mixture of ethanol (20 mL) and toluene (80 mL), and after argon substitution, tetrakis(triphenylphosphine)palladium(0) (0.30 g, 0.26 mmol) was added. The reaction mixture was stirred under an argon atmosphere at 70° C. for 18 hrs. The reaction mixture was cooled and insoluble material was filtered off through celite. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10) to give the title compound (5.0 g, yield 100%) as a colorless oil.

reactant | (2,4-Dimethylphenyl)boronic acid | 20.0 mmol, 3.0 g | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | ethyl 3-bromobenzoate | 18.8 mmol, 4.3 g | BrC=1C=C(C(=O)OCC)C=CC1 | C9H9BrO2
reactant | cesium carbonate | 30.0 mmol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2′,4′-dimethylbiphenyl-3-carboxylate | 5.0 g, yield 100% | CC1=C(C=CC(=C1)C)C1=CC(=CC=C1)C(=O)OCC | C17H18O2
